US07132419B2
4-Aza-DL-leucine methyl ester. Hydrochloride (III.1)
Methanol (150 mL) was saturated with anhydrous hydrogen chloride gas. To this was added 4-aza-DL-leucine (4.86 g)(commercially available) and the reaction mixture was stirred overnight at room temperature. The solvent was removed in vacuo to yield the title compound (quantitative yield).

reactant | hydrogen chloride | Cl | ClH
reactant | 4-aza-DL-leucine | 4.86 g | NC(CN(C)C)C(=O)O | C5H12N2O2
reactant | Methanol | 150 mL | CO | CH4O
product | 4-Aza-DL-leucine methyl ester. Hydrochloride | quantitative yield | Cl.COC(C(N)CN(C)C)=O | InChI=1S/C6H14N2O2.ClH/c1-8(2)4-5(7)6(9)10-3;/h5H,4,7H2,1-3H3;1H
